US06242443B1
7-Chloro-3-methoxyamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (502 mg; 2 mmol) and O-methylhydroxylamine hydrochloride (300 mg) and with the use of the same procedure as in example 21, 280 mg (57%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 11.35 (s, 1H, NH), 11.28 (s, 1H, NH), 7.78 (d, 1H, H-8), 7.63 (dd, 2H, H-6 and H-5), 3.80 (s, 3H, CH3); 13C-NMR (DMSO-d6) ppm; 151.19, 132.79, 131.26, 127.10, 123.00, 120.83, 118.78, 63.25.

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 2 mmol, 502 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | O-methylhydroxylamine hydrochloride | 300 mg | Cl.CON
product | 7-Chloro-3-methoxyamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 280 mg, 57% | ClC1=CC2=C(NC(=NS2(=O)=O)NOC)C=C1 | C8H8ClN3O3S
